US07888349B2
3-(Benzyloxy)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine, (3.34 g, 10.0 mmol) prepared as described in Example 368, was dissolved in a mixture of methanol (100 mL) and dichloromethane (100 mL) and transferred to a hydrogenation vessel charged with 10% palladium on carbon (5 g, 47 mmol). The vessel was placed under hydrogen pressure (50 psi, 3.45×105 Pa) and shaken for two days at ambient temperature. An analysis by LC/MS indicated the presence of starting material. The catalyst was removed by filtration through a layer of CELITE filter aid, and the filtrate was placed under hydrogen pressure (50 psi, 3.45×105 Pa) again for two days in the presence of 10% palladium on carbon (5 g, 47 mmol). The catalyst was removed by filtration through a layer of CELITE filter aid, and the filtrate was concentrated under reduced pressure. The residue (560 mg) was combined with material from another run to provide 1.19 g of 6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-3-ol.

reactant | 3-(Benzyloxy)-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-6-amine | 10.0 mmol, 3.34 g | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C(=NC2=C1)N)N=C1N3CCN(C1)S(=O)(=O)C | C21H21N5O3S
solvent | methanol | 100 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | palladium on carbon | 47 mmol, 5 g | [Pd] | Pd
catalyst | palladium on carbon | 47 mmol, 5 g | [Pd] | Pd
product | 6-amino-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinolin-3-ol | 1.19 g | NC1=NC2=CC(=CC=C2C2=C1N=C1N2CCN(C1)S(=O)(=O)C)O | C14H15N5O3S
